US08242111B2
To a solution of (3S)-tert-butyl 3-((3-hydroxy-5-methyl-3-phenylhex-5-enyl)(methoxycarbonyl)amino)piperidine-1-carboxylate (5.80 g, 13 mmol) in dry THF (200 mL) was added NaH (60% in mineral oil, 1.04 g, 2 equiv). The mixture was heated to reflux for 2 h. After being cooled down to rt, the mixture was diluted with ether (200 mL), quenched with satd aq NH4Cl solution (25 mL), washed with 1% HCl solution (50 mL), brine (35 mL), and dried over Na2SO4. After filtration and concentration, the residue was purified by chromatography on a 120 g silica gel column, eluted with a 40-70% EtOAc in hexanes gradient to afford (5)-tert-butyl 3-((R)-6-(2-methylallyI)-2-oxo-6-phenyl-1,3-oxazinan-3-yl)piperidine-1-carboxylate (2.98 g, 55% yield). LC-MS Method 1 tR=1.92 min., m/z 437 (M+Na).

reactant | (3S)-tert-butyl 3-((3-hydroxy-5-methyl-3-phenylhex-5-enyl)(methoxycarbonyl)amino)piperidine-1-carboxylate | 13 mmol, 5.80 g | OC(CCN([C@@H]1CN(CCC1)C(=O)OC(C)(C)C)C(=O)OC)(CC(=C)C)C1=CC=CC=C1 | C25H38N2O5
reactant | NaH | 1.04 g, 2 equiv | [H-].[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | ether | 200 mL | CCOCC | C4H10O
product | (5)-tert-butyl 3-((R)-6-(2-methylallyI)-2-oxo-6-phenyl-1,3-oxazinan-3-yl)piperidine-1-carboxylate | 2.98 g, 55% yield | CC(C[C@@]1(CCN(C(O1)=O)[C@@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)=C | C24H34N2O4
